US08334026B2
Synthesis of vinyl 4-(pyren-1-yl)butanoate
To a 500 mL, two neck flask equipped with a stir bar, argon inlet, and stopper is added 4-(1-Pyrenyl)butyric acid (10.0 grams, 34.7 mmol, obtained from Sigma-Aldrich, Milwaukee, Wis.), palladium acetate 1,10-phenanthroline complex (403 milligrams, 1 mmol) and vinyl acetate (128 milliliters, 1.39 mol, obtained from Sigma-Aldrich, Milwaukee, Wis.). Next, toluene (200 milliliters) is added, the solution is purged with argon and stirred magnetically at 60° C. for 62 hours. The excess vinyl acetate, along with acetic acid (co-product) is removed, an additional vinyl acetate (32 mL, 0.35 mol) is added, and the reaction is continued for 48 hours at 60° C. under argon to complete the reaction. The excess vinyl ester is removed, and the crude product is filtered to remove suspended catalyst residue, and the toluene is removed in vacuo to famish vinyl 4-(pyren-1-yl)butanoate.

reactant | 4-(1-Pyrenyl)butyric acid | 34.7 mmol, 10.0 grams | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)CCCC(=O)O | C20H16O2
reactant | vinyl acetate | 1.39 mol, 128 milliliters | C(C)(=O)OC=C | C4H6O2
reactant | vinyl acetate | 0.35 mol, 32 mL | C(C)(=O)OC=C | C4H6O2
solvent | toluene | 200 milliliters | C1(=CC=CC=C1)C | C7H8
product | vinyl 4-(pyren-1-yl)butanoate | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)CCCC(=O)OC=C | C22H18O2
